US04788368
A solution of 18 mmol of the compound from Example 1 in 10 milliliters of toluene was mixed with a solution of 5.0 grams (17.8 mmol) of benzophenone in 25 milliliters of anhydrous toluene. After 16 hours stirring at 25° C. the reaction mixture was slowly and cautiously hydrolyzed with gas evolution noted at 0° C. with 5 milliliters of 1N aqueous HCl. The separated organic layer was washed with aqueous NaHCO3, dried over anhydrous MgSO4 and evaporated. Gas chromatographic analysis and mass spectral identification of the components showed that the ketone had been consumed, but only traces of the desired 1,1-diphenyl-1-heptene had been formed. The principal outcome of the reaction was reduction: diphenylmethanol was separated and identified.

reactant | benzophenone | 17.8 mmol, 5.0 grams | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | HCl | 1N, 5 milliliters | Cl | ClH
solvent | toluene | 10 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 milliliters | C1(=CC=CC=C1)C | C7H8
product | 1,1-diphenyl-1-heptene | C1(=CC=CC=C1)C(=CCCCCC)C1=CC=CC=C1 | C19H22
